US07829560B2
3-Fluoro-5-morpholin-4-yl-N-[4-(3-morpholin-4-yl-propenyl)-naphthalen-1-yl]-benzamide (56 mg, 117 μmol), is stirred under 1 atmosphere of hydrogen with 10% palladium on carbon (50 mg) in methanol (15 ml) at room temperature for 1 day. Celite® (1 g) is then added and the mixture filtered through a pad of Celite® and washed with methanol (2×10 ml). The filtrate is evaporated to dryness and the purified by column chromatography on silica gel eluted with 5% methanol in ethyl acetate to give 3-fluoro-5-morpholin-4-yl-N-[4-(3-morpholin-4-yl-propyl)-naphthalen-1-yl]-benzamide as a white powder (26 mg). 1H NMR 300 MHz (CDCl3) 8.04 (d, 1H, J=11.5 Hz), 7.95 (s, 1H), 7.7-7.8 (m, 2H), 7.5 (m, 2H), 7.35 (d, 1H, J=8.6 Hz), 7.3 (s, 1H), 7.0 (d, 1H, J=10.1Hz), 6.7 (d, 1H, J=13.0 Hz), 3.8 (t, 4H, J=5.7 Hz), 3.7 (m, 4H), 3.2 (m, 4H), 3.1 (t, 2H, J=7.2 Hz), 2.45 (s, 6H), 1.9 (m, 2H).

reactant | 3-Fluoro-5-morpholin-4-yl-N-[4-(3-morpholin-4-yl-propenyl)-naphthalen-1-yl]-benzamide | 117 μmol, 56 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)C=CCN2CCOCC2)C=C(C1)N1CCOCC1 | C28H30FN3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
product | 3-fluoro-5-morpholin-4-yl-N-[4-(3-morpholin-4-yl-propyl)-naphthalen-1-yl]-benzamide | 26 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)CCCN2CCOCC2)C=C(C1)N1CCOCC1 | C28H32FN3O3
